US05843942
Methyl 5-bromosalicylate [prepared by treating methyl 5-bromosalicyclic acid with methanol and sulphuric acid] (4.62 g, 20 mmol) was dissolved in THF (150 mL) and treated with thiophene methanol (2.28 g, 20 mmol) and triphenyl phosphine (10.4 g, 40 mmol). The reaction was cooled in an ice bath and treated with DEAD (6.96 g, 20 mmol). The resultant orange solution was allowed to stir at ambient temperature under argon for 18 hours. The reaction mixture was evaporated and the residue subjected to chromatography (eluant: diethyl ether/hexane) to give methyl 5-bromo-2-(2-thienylmethoxy)benzoate as a pink oil (3.6 g, 55%).

reactant | Methyl 5-bromosalicylate | 20 mmol, 4.62 g | BrC1=CC=C(C(C(=O)OC)=C1)O | C8H7BrO3
reactant | thiophene methanol | 20 mmol, 2.28 g | S1C(=CC=C1)CO | C5H6OS
reactant | triphenyl phosphine | 40 mmol, 10.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 20 mmol, 6.96 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | methyl 5-bromo-2-(2-thienylmethoxy)benzoate | 3.6 g, 55% | BrC=1C=CC(=C(C(=O)OC)C1)OCC=1SC=CC1 | C13H11BrO3S
